Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
LLE lesion 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with a hx of htn, gout, polycythemia (extensive workup
at ___ negative, including BMBx and JAK2) presenting with
rapidly progressive L lateral knee lesion. Pt describes mild
erythema lateral to L knee on night of ___. He does not 
recall
trauma or insect bites, and is not painful; he had a temp of 
99.9
at ___'s office. Symptoms progressed; pt presented to PCP for
further evaluation on ___, and was started on clindamycin.
Lyme test was prelim positive (___), so antibiotics were
switched to augmentin and doxycycline, which he has not yet
started taking. He presented to the ED given progressive
erythema, and necrotic area to his wound, with blister 
formation.
Denies oral lesions, N/V, recent travel, recent hospitalization,
known immunocompromise. Pt states that he took clindamycin as
prescribed, QID, took a total of 7 doses without any missed
doses.

In terms of tick exposure, his only time out of the "concrete
jungle" of ___ was a trip to visit his parents at their home
in ___ in the woods around ___. Interestingly, he notes 
that
he had his boiler replaced ___ days prior to onset of symptoms,
at which time a hole was made in the wall at the site of the 
pipe
joint. He does have 2 cats at home, but states that he would 
have
noticed any cat scratches.

In the ___ ED:
VS 98.8, 112->79, 148/90->132/77, 100% RA
Exam notable for:
"MSK: Large oval area of erythema just lateral to the left knee
with a necrotic center and multiple blisters formation. No
palpable crepitus. No tenderness to palpation over left calf or
over surrounding wound. Full range of motion of the left knee 
and
ankle joint."

Labs notable for:
___ 9.7, Hb 19.8, Plt 129
BUN 18, Cr 1.0
CRP 93.1, lactate 1.7
INR 1.2

Imaging:
LLE xray:
No evidence of subcutaneous air. Superficial soft tissue
striations consistent
with cutaneous inflammation and edema.

CT LLE:
Superficial soft tissue swelling just lateral to the popliteal
fossa with a
superficial fluid-filled blister. No evidence of discrete fluid
collection,
subcutaneous air or necrotic tissue.

Consults:
None 

Received:
IVF
Tylenol

On arrival to the floor, he reports feeling "A1, totally fine."
He is feeling more and more nervous given responses from
examining providers. 

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI
 
Past Medical History:
Gout
Htn
Fatty liver
OSA not on home CPAP
EtOH use disorder
Active tobacco use
Carrier of hemochromatosis HFE gene
HLD
Polycythemia
 
Social History:
___
Family History:
Paternal grandfather died from MI at age ___
He has one ___ sister who is healthy
Parents are both healthy
 
Physical Exam:
Temp: 98.3 PO BP: 145/83 HR: 76 RR: 18 O2 sat:
96% 
Gen - well appearing, sitting up in bed comfortably
HEENT - moist oral mucosa, no OP lesions 
Neck - supple, no cervical LAD appreciated 
___ - RRR, s1/2, no murmurs
Pulm - CTA b/l, no w/r/r
GI - obese, soft NT ND +BS
Ext - trace leg edema left leg distal to skin lesion, right leg
no edema, no cyanosis 
Skin - left leg with necrotic appearing lesion, erythema 
concentric and extending but within drawn on borders with firm
induration within necrotic area. 
Psych - calm and cooperative

 
Pertinent Results:
CT LLE ___
Superficial soft tissue swelling and skin thickening at the 
lateral aspect of
the knee with a superficial fluid-filled blister.  No evidence 
of discrete
fluid collection nor subcutaneous gas.
 

L Tib Fib xray ___
No evidence of subcutaneous gas.  Superficial soft tissue 
striations
consistent with cutaneous inflammation and edema.
 

Lyme - (ATRIUS)
Screening test positive but subsequent confirmatory testing for 
IgG and IgM negative, though this may be negative early in the 
course of Lyme. 
 
Brief Hospital Course:
___ with a hx of htn, gout, polycythemia
(extensive workup at ___ negative, including BMBx and JAK2)
presenting with rapidly progressive LLE lesion consistent with 
erythema migrans due to lyme. 

# LLE lesion: 
While initially felt to be due to a spider bite, review of prior 
photos and history suggestive more of lyme disease with bullous 
erythema migrans. Initially was on vancomycin and zosyn, 
subsequently de-escalated to IV unasyn to cover for superficial 
cellulitis, in addition to PO doxycycline for Lyme. By the time 
of discharge, lesion did not improve substantially, but is 
expected to recover over a matter of weeks. He was discharged on 
a regimen of doxycycline monotherapy for a total of 14 days and 
advised to use vaseline and gauze for wound care. Review of 
Atrius records notable for positive Lyme screening test but 
subsequent negative confirmatory testing for IgM and IgG, 
however, it is possible for antibodies to be negative in early 
Lyme disease and diagnosis remains clinical. 

# Gout
-Pt describes early stages of gout flare in L ankle, 
indomethacin q6h x2 days. Continued on allopurinol.

# Polycythemia
-Extensive and appropriate w/u in Atrius system, including bone 
marrow biopsy, JAK2 testing, and TTE, all unrevealing. Continued 
w/u as outpatient.

# Hypertension:
 Initially home amlodipine-benazepril held in setting of acute 
inflammatory process - subsequently resumed. 

# VTE prophylaxis: Low risk for VTE, ambulation 
# Code Status/ACP: presumed Full
# Disposition: discharge home given improvement in skin lesion

TRANSITIONAL ISSUES:
==================
[] trend wound healing, monitor for superimposed cellulitis that 
may warrant additional antibiotic (ie Augmentin) in addition to 
doxycycline. 
[] discharged for 14d course of doxycycline, determine at follow 
up need to extend course based on healing of skin lesion. 
[] consider repeat Lyme serology in a few weeks to confirm 
diagnosis (as immunoglobulin study can be falsely negative in 
early Lyme). 

> 30 mins spent coordinating discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
2. Doxycycline Hyclate 100 mg PO Q12H 
3. Allopurinol ___ mg PO DAILY 
4. amlodipine-benazepril ___ mg oral DAILY 
5. Colchicine 0.6 mg PO ASDIR 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  amlodipine-benazepril ___ mg oral DAILY  
3.  Colchicine 0.6 mg PO ASDIR  
4.  Doxycycline Hyclate 100 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Erythema migrans due to tick bite / bullous Lyme disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to the hospital with a lesion on your left leg 
that is likely consistent with Lyme disease. You will be treated 
with 2 weeks of antibiotics. This lesion may worsen before it 
gets better. Please dress the area with vaseline. Be sure to 
follow up with your PCP in the next 1 week to ensure it is 
getting better. 

You are being discharged on the antibiotic doxycycline to take 
twice a day for 14 days. 

If you develop spreading redness, fevers, or pus from your 
wound, then notify your doctors immediately as ___ may need an 
additional antibiotic but we do not feel that this is needed at 
this time. Please continue to cover the dark region of your 
wound with Vaseline and gauze covering as you've been 
instructed. 

It has been a pleasure to care for you in the hospital. We wish 
you the best. 

Sincerely, 
Your care team at ___
 
Followup Instructions:
___